US07012089B2
8-Fluoro-3-methyl-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole
To a solution of 9-fluoro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine (4.0 g, 19.1 mmole) in 1-propanol (300 mL) was added cyclopentanone (14.3 ml, 169.6 mmole), followed by p-toluenesulfonic acid monohydrate (10.3 g, 53.3 mmole), and the resulting reaction mixture was refluxed for 30 hours. The reaction mixture was cooled to room temperature and solvent removed in vacuo to produce a brown residue. The residue was diluted with ethyl acetate (500 mL) and washed with saturated aqueous sodium bicarbonate (350 mL), saturated aqueous sodium chloride (350 mL), dried (sodium sulfate) and concentrated in vacuo. Purification by flash column chromatography (silica gel, ethyl acetate:hexanes 1:1) provided 1.0 g of the title compound. 70.5 mg of the free amine was treated with one equivalent of fumaric acid in ethanol to form a fumarate salt, mp 168-170° C. MS (ES) m/z 259.12 ([M+H]+).

reactant | 9-fluoro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine | 19.1 mmole, 4.0 g | FC=1C=CC2=C(N(CCN(CC2)C)N)C1 | C11H16FN3
reactant | cyclopentanone | 169.6 mmole, 14.3 ml | C1(CCCC1)=O | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 53.3 mmole, 10.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1-propanol | 300 mL | C(CC)O | C3H8O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 8-Fluoro-3-methyl-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole | 1.0 g | FC1=C2C3=C(N4C2=C(C=C1)CCN(CC4)C)CCC3 | C16H19FN2
